US05106526
To p-toluenesulfonate chloride (400.66 gm/2.10 mol) in water at 25° C. was added 2,2,3,3,3-pentafluoro-1-propanol (300.8 gm). The mixture was heated in a 5 liter, 3-neck separatory funnel type reaction flask, under mechanical stirring, to a temperature of 50° C. Sodium hydroxide (92.56 gm/2.31 mol) in 383 ml water(6M solution) was added dropwise to the reaction mixture via addition funnel over a period of 2.5 hours, keeping the temperature below 55° C. Upon completion of this addition, when the pH of the aqueous phase was approximately 6, the organic phase was drained from the flask while still warm, and allowed to cool to 25° C. The crude product was recrystallized from petroleum ether to afford white needles of 2,2,3,3,3-pentafluoropropyl-p-toluenesulfonate (500.7 gm/1.65 mol, 82.3%).

reactant | p-toluenesulfonate chloride | 2.10 mol, 400.66 gm | [Cl-].C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | 2,2,3,3,3-pentafluoro-1-propanol | 300.8 gm | FC(CO)(C(F)(F)F)F | C3H3F5O
reactant | Sodium hydroxide | 2.31 mol, 92.56 gm | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 6M, 383 ml | O | H2O
product | 2,2,3,3,3-pentafluoropropyl-p-toluenesulfonate | 1.65 mol, 500.7 gm, 82.3% | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(C(F)(F)F)F | C10H9F5O3S
